US04062844
4-(4-Amino-6,7-dimethoxyquinazolin-2-yl)piperazine-1-imidic Acid Ethyl Ester
To a dry flask equipped with stirrer, thermometer and reflux condenser is placed 25 ml. of ethanol and sodium metal, 0.253 g. (0.011 g. atom) is added in portions. When the sodium is completely reacted, 3.14 g. (0.01 mole) of 2-(4-cyanopiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline is added and the resulting mixture is refluxed for 5 hours. After cooling to room temperature, glacial acetic acid is added to neutralize the mixture. After evaporation to dryness, 25 ml. of water and 50 ml. of chloroform are added to the residue. The mixture is transferred to a separatory funnel and the chloroform layer washed again with water, dried over anhydrous sodium sulfate then concentrated to dryness to provide the title compound.

reactant | ethanol | C(C)O | C2H6O
reactant | sodium | [Na] | Na
reactant | 2-(4-cyanopiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | 0.01 mole | C(#N)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C15H18N6O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-Amino-6,7-dimethoxyquinazolin-2-yl)piperazine-1-imidic Acid Ethyl Ester | C(C)OC(=N)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C17H24N6O3
